Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
headaches, blurred vision, vomiting
 
Major Surgical or Invasive Procedure:
___ Aborted craniotomy
___ Right EVD 
___ Diagnostic cerebral angiogram  
___ Right posterior fossa craniotomy for mass resection 
___ Right frontal VP shunt (Programmable Strata Valve)

 
History of Present Illness:
This is a ___ year old female that is ___ weeks pregnant that 
developed headache, vomiting, and blurry vision for a few 
months. She
thought this was either secondary to migraines or her pregnancy.
Of note, the headaches were more like a cervical neuralgia, and
were exacerbated by Valsalva. Vomiting exacerbated her 
headaches.
She then developed diplopia approximately ___ weeks prior to the
current admission.  The headaches continued, although they did
not change in character, and patient did have persistent
vomiting.  She initially went to her ophthalmologist and then 
was
seen by a neurologist at ___, who ordered an MRI brain
without contrast, since gadolinium is contraindicated in
pregnancy. The MRI revealed a lesion that is situated at the 
tentorium
cerebellum. In addition, there is a description of a herniating
meningioma arising from the tentorium abutting the cerebellum 
and
including the ___ ventricle leading to hydrocephalus and
tonsillar herniation. The patient was admitted to the SICU under
the neurosurgical service. 

 
Past Medical History:
recent miscarriage (first trimester ~8 weeks, then had D&C in
___, lumbago, irritable bowel syndrome, gluten sensitivity,
ganglion cyst removal from the L wrist
 
Social History:
drinks alcohol occasionally (one
glass of wine per week), but not during pregnancy, does not 
smoke
cigarettes or use recreational drugs.  She works as a ___.  She lives with her husband.  The patient's
birth mother is from ___ but she was adopted in the ___.

 
Physical Exam:
Vital signs: Afebrile and hemodynamically stable  
General: Sitting out in a chair, looks comfortable
HEENT: Moist oral mucosae, no lymphadenopathy, has a fine tremor
in her hands (longstanding)
Skin: No ___ macules
___: S1+2, no added sounds
Resp: Lungs clear to auscultation bilaterally
GI: Normal bowel sounds

Neurological Exam
Mental status: Fluent speech, no dysarthria, alert and oriented
to person, place, time and situation. Able to follow midline and
axial commands. Able to read, write, no acalculia, no left to
right confusion. Registration and recall are normal.

Cranial nerves: EOMI, PEARLA. She has nystagmus on looking to
either side. She has no field cut. Her facial excursion and
sensation are in tact. Palatal elevation is symmetric. Her
shoulder shrug is symmetric. Her tongue is midline.

Motor/Sensory/Reflexes: Tone, power, reflexes are normal in the
arms and legs, and her sensation to light touch is normal.

Coordination: Mild past pointing bilaterally, mirroring 
movements
are normal. She is able to stand, did not walk patient or get 
her
to perform tandem gait in the SICU setting. 

On the day of discharge:
MAE full except RUE 4+/5, AOx3, R dysmetria but improving, 
incision C/D/I. 
 
 
Pertinent Results:
MRI WAND study:
Pre-surgical MRI shows a right cerebellar mass with limited 
evaluation in 
absence of contrast.  Presence of flow void is suggestive of the 
vascular 
tumor such as hemangioblastoma. 

CXR ___:
In comparison with the study of several min previously, the 
nasogastric tube has been pushed forward and appears to extend 
to the lower stomach, where it coils back on itself so that the 
tip is positioned laterally in the mid stomach.  Remainder of 
the study is unchanged. 

___ Cerebral angiogram:
Hypervascular tentorial tumor fed mainly by the right superior 
cerebellar 
artery 

___ Full Fetal High Risk Transabdominal US
FINDINGS:  
  
There is a single live intrauterine gestation. The fetus is in 
breech 
position.  The placenta is anterior.. There is no evidence of 
previa. There is 
a normal amount of amniotic fluid. Views of the fetal head, 
face, outflow 
tracts, stomach, kidneys, cord insertion site, bladder,  3 
vessel cord, are 
normal.  Views of the four-chamber heart, distal extremities, 
and distal spine 
are limited by patient body habitus and inability of the patient 
to change 
position due to being in the neuro ICU .  However, No fetal 
morphologic 
abnormalities are detected.  There is a 4 cm anterior fibroid. 
No adnexal 
abnormalities are seen. 
  
The following biometric data were obtained: 
  
BPD 39 mm, 18 weeks 0 days. 
HC 145 mm, 17 weeks 6 days. 
AC 125 mm, 18 weeks 1 days. 
FL 24 mm, 17 weeks 4 days. 
  
Age by US: 8 weeks 0 days. 
Age by Dates: 17 weeks 5 days. 
  
Single, live fetus measuring size equals dates.  Slightly 
limited anatomic 
survey .No fetal morphologic abnormalities are detected. 

___ - MRI Brain without Contrast:
1. Re-identified is a the right cerebellar hemisphere 2.2 cm 
mass with 
expected findings from a recent right suboccipital craniotomy 
with 
cranioplasty mesh and embolization. 
2. Slow diffusion of the right cerebellar hemisphere involving 
the middle 
cerebellar peduncle and dentate nucleus is compatible with 
infarct/ischemia from recent embolization procedure. 
3. Although there is mildly increased effacement of the fourth 
ventricle, the degree of leftward mass effect on the cerebellar 
vermis and left cerebellar hemisphere is similar in 
configuration from prior exam. 

___ - CT Head without Contrast:
1. Expected postoperative sequela status post right suboccipital 
craniotomy and right posterior fossa mass resection, as detailed 
above. 
2. Mass-effect is generally unchanged in comparison to 
preoperative MRI, 
including effacement of the quadrigeminal plate cistern in 
addition to 
fullness at the cisterna magna, suggestive of some degree of 
downward 
cerebellar tonsillar herniation. 
3. No evidence acute hemorrhage.  Unchanged low attenuation in 
the anterior aspect of the surgical bed on the right cerebellar 
hemisphere, suggestive of edema versus ischemic changes, 
previously demonstrated by MRI. 
4. Stable appearance of right frontal approach ventriculostomy 
catheter. 

Radiology Report MR HEAD W/O CONTRAST Study Date of ___ 
2:13 ___ 

IMPRESSION:  
  
1.  Status post right occipital craniotomy as described above.  
In comparison with the most recent MRI examination, the 
previously noted nodular lesion in the right cerebellar 
hemisphere appears smaller, with evidence of residual blood 
products in the surgical bed, the examination is limited without 
contrast. 
2.  Unchanged pattern of edema in the surgical area associated 
with slow 
diffusion, previously demonstrated by MRI and suggestive of 
underlying 
ischemic change, causing mild mass effect in the fourth 
ventricle and 
unchanged low lying cerebellar tonsils. 
3.  Ventricular shunt appears in place via a right frontal burr 
hole, the tip terminating at the area of the foramen of ___, 
with no evidence of 
significant changed in the ventricular size or transependymal 
migration of CSF. 

Radiology Report CT HEAD W/O CONTRAST Study Date of ___ 
11:23 AM
IMPRESSION:  
Interval increase in size of the third ventricle, lateral 
ventricles. There is also interval diffuse effacement of the 
sulci. Intraventricular shunt appears in place via a right 
frontal burr or with the tip terminating at the level of the 
third ventricle. 

 
 
Brief Hospital Course:
Patient presented as a transfer from ___ to the SICU on ___. She 
was neurologically intact and stable upon arrival. She remained 
stable into ___ and was evalauted by maternal fetal medicine to 
aid in her overall care. She subsequently underwent an MRI on 
___ for pre-surgical planning. She was planned for surgery on 
___ and on ___ informed consent was obtained, pre-op workup was 
completed. On ___ she was discussed in the brain tumor clinic 
and was planned for resection of her lesion later in the day. 
Went to OR in afternoon and during planned resection upon dural 
opening there was a collection of vessels encoutnered and the 
surgery was aborted. She was brought back to the ICU after being 
extubated in the operating room. She remained stable and was 
planned for cerebral angiogram on ___ to evaluate the 
abnormality. On the early morning of ___ she began to have 
nausea and vomiting. She was given mannitol 25grams x 1 and her 
steroids were increased to 4mg q6hours. She ultimately was 
intubated and a central line was placed and she udnerwent Right 
frontal EVD placement after obtaining informed consent. the 
procedure was carried out without difficulty or complication. 
She then underwent conventional cerbral angiogram which showed a 
hypervascular lesion. She was brought back to the ICU after the 
procedure where she remained stable.

On ___ she was extubated in the morning and was neurologically 
well while awaiting further treatment plan which was being 
discussed amongst neurosurgery, neuro-oncology, and radiation 
oncology. 

On ___, the patient remained neurologically stable on 
examination. The ICPs ___ and the EVD remained at 15.

On ___, the patient's neurologic examination remained stable. 
Her ICPs remained in the normal limits. The salt tabs were 
increased and the hypertonic saline decreased and she continued 
to receive Q6H serum sodium checks. 

___, Pt weaned of 3% Saline and Q6H Na checks continued.  Pts 
exam remained stable and EVD remains in place at 15.

___, no change, awaiting plan for surgery.

___, Pt remains stable with no change in neuro exam.  Plan is 
for embolization and resection on ___.

On ___ she was neurologically stable and awaiting OR ___ 
and possible embolization ___ vs ___ prior to her 
resection. 

On ___ pt was taken to endovascular suite for embolization of 
her posterior fossa lesion.  Post-op she is doing well.  Exam 
remains stable and groin site is clean without any drainage.  
MRI wand will be done on ___ AM for surgical resection laster 
that day.

On ___, The patient went to the OR for right posterior fossa 
craniotomy for resection of mass with Dr ___.  The patient 
tolerated the procedure well and was recovered in the intensive 
care unit. She underwent a post-operative head CT which was 
stable.

On ___, the patient remained neurologically stable on 
examination. The EVD was clamped earlier this AM but was 
unclamped for elevated ICPs approximately 1.5 hours later. She 
remained in the ICU for close monitoring. She underwent a MRI of 
the brain without contrast which showed.....

On ___, The external ventricular drain was raised to 20. The 
patient neurological status was stable throughout the day. The 
serum sodium was 132 then up to 135 later in the day. RN 
reported ? R VF cut. Patient examined and none appreciated on 
examination.  

On ___, The serum Na 140. The External Ventricular Drain 
clamped today per Dr. ___. 
 
On ___, The patient experienced transient intercranial pressure 
spikes.  The external ventricular drain remained clamped. The 
patient was NPO for the OR for shunt  which was cancelled due to 
patient would like to wait and see if maybe she might not need a 
VP shunt if she tolerated the clamp trial for another day.  The 
patient was placed on teh OR schedule for ___.   The patient 
continued with right duysmetria/ right grip ___ slow speech,but 
was otherwise intact.  She reported diplopia with both eyes 
open.  The serum sodium was checked every 6 hours and changed to 
BID checks.   The serum sodium was 139 and sodium chloride 
tablets were continued at 3grams  qid.  A repeat urine culture 
was sent  *****
  
On ___, The overnight ICPs were  ___.  There was no increased 
HA or nausea- The NCHCT was performed and consistent with 
hydrocephalas.   The patient reported speech was improved as 
well as diplopia. no decadron wean per Dr ___. Serum sodium 
checks continued BID.  The patient underwent removal of R EVD 
and placement of VPeritoneal shunt on L side. There was no post 
operative scan given pregnancy.  The shunt was programable and 
set at 1.5- strata valve.  She was started on augmentin for a 7 
day course for asymptomatic bactiuria in pregnancy 

On ___ She was neurologically stable. Speech improving. Shunt 
valve interrogated and reset to 1.5. She underwent fetal 
ultrasound at recommendation of maternal fetal medicine which 
revealed single live fetus approximately 19 weeks gestation. 

On ___ She was neurologically stable. Sodium level was 130. On 
recheck was found to be 133. She was placed on a free water 
restriction and normal saline IV fluids were continued. 
Magnesium and Potassium were repleted. 

On ___, the patient was neurologically stable. Nausea improved 
significantly. Sodium was 135. She continued on oral sodium 
supplementation. She continued to remain stable on ___ and was 
cleared by ___ for discharge; however, ___ needed to work with 
the patient further. Her staples from the EVD insertion and R 
pfossa crani sutures were removed without difficulty. She was 
seen by ___ in the afternoon and cleared for dc home with home 
___. OB/GYn was notified and follow-up was arranged. 

 
Medications on Admission:
Ranitidine, Prenatal MVI

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Sodium Chloride 3 gm PO QID 
RX *sodium chloride 1 gram 3 tablet(s) by mouth four times a day 
Disp #*40 Tablet Refills:*0
3. Senna 8.6 mg PO BID constipation 
4. Ranitidine 150 mg PO BID 
5. Prenatal Vitamins 1 TAB PO DAILY 
6. Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H Duration: 4 
Days 
RX *nitrofurantoin monohyd/m-cryst [Macrobid] 100 mg 1 
capsule(s) by mouth every twelve (12) hours Disp #*4 Capsule 
Refills:*0
7. Docusate Sodium 100 mg PO BID constipation 
8. Dexamethasone 3 mg PO Q12H Duration: 4 Doses 
This is dose # 1 of 4 tapered doses
Tapered dose - DOWN 
RX *dexamethasone 1 mg 3 tablet(s) by mouth every twelve (12) 
hours and taper as directed Disp #*20 Tablet Refills:*0
9. Dexamethasone 2 mg PO Q12H Duration: 4 Doses 
This is dose # 2 of 4 tapered doses
Tapered dose - DOWN 
10. Dexamethasone 2 mg PO DAILY Duration: 2 Doses 
This is dose # 3 of 4 tapered doses
Tapered dose - DOWN 
11. Dexamethasone 1 mg PO DAILY Duration: 2 Doses 
This is dose # 4 of 4 tapered doses
Tapered dose - DOWN 
12. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN Pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*30 Tablet Refills:*0
13. Outpatient Lab Work
Please have your labs checked prior to you ___ appointment. 
Chem 7

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
right posterior fossa mass
hydrocephalus 
hyponatremia 
UTI
Cerebral edema 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Surgery

·     You underwent surgery to remove a brain lesion from your 
brain. 
•     Your shunt is a ___ Strata Valve which is 
programmable. This will need to be readjusted after all MRIs or 
exposure to large magnets.  Your shunt is programmed to 1.5 
       
·     Please keep your incision dry until your sutures/staples 
are removed. 

·     You may shower at this time but keep your incision dry.

·     It is best to keep your incision open to air but it is ok 
to cover it when outside. 

·     Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

 
Activity

·     We recommend that you avoid heavy lifting, running, 
climbing, or other strenuous exercise until your follow-up 
appointment.

·     You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.

·     No driving while taking any narcotic or sedating 
medication. 

·     If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 

·     No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

 

Medications

·     Do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 

·     You may use Acetaminophen (Tylenol) for minor discomfort 
if you are not otherwise restricted from taking this medication.

 
What You ___ Experience:

·     You may experience headaches and incisional pain. 

·     You may also experience some post-operative swelling 
around your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 

·     You may experience soreness with chewing. This is normal 
from the surgery and will improve with time. Softer foods may be 
easier during this time. 

·     Feeling more tired or restlessness is also common.

·     Constipation is common. Be sure to drink plenty of fluids 
and eat a high-fiber diet. If you are taking narcotics 
(prescription pain medications), try an over-the-counter stool 
softener.

 

When to Call Your Doctor at ___ for:

·     Severe pain, swelling, redness or drainage from the 
incision site. 

·     Fever greater than 101.5 degrees Fahrenheit

·     Nausea and/or vomiting

·     Extreme sleepiness and not being able to stay awake

·     Severe headaches not relieved by pain relievers

·     Seizures

·     Any new problems with your vision or ability to speak

·     Weakness or changes in sensation in your face, arms, or 
leg

 

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:

·     Sudden numbness or weakness in the face, arm, or leg

·     Sudden confusion or trouble speaking or understanding

·     Sudden trouble walking, dizziness, or loss of balance or 
coordination

·     Sudden severe headaches with no known reason

Steroid Taper:
- Dexamethasone 3mg (3 tabs) every 12hrs for one more dose THEN
- Dexamethasone 2mg (2 tabs) every 12hrs for 4 doses THEN
- Dexamethasone 2mg (2 tabs) every day for 2 doses THEN
- Dexamethasone 1 mg (1 tabs) every day for 2 doses then STOP.

 
Followup Instructions:
___